US07964615B2
2,2,3,3-Tetrafluoro-4-{[(2E)-3-phenylprop-2-en-1-yl]oxy}butan-1-ol
To a solution 2,2,3,3-tetrafluoro-1,4-butanediol (2.0 g, 12.3 mmol) in dimethylformamide (30 mL) was added 60% sodium hydride (0.140 g, 18.4 mmol). The mixture was stirred at room temperature for 1.30 hours. Then, a solution of cinnamyl bromide (3.2 g, 12.3 mmol) in dimethylformamide (40 mL) was added. The mixture was stirred at room temperature overnight and concentrated. The residue was dissolved with ethyl acetate (50 mL), washed with water (2×25 mL) and brine (25 mL), dried (Na2SO4), and the solvent removed under reduced pressure. Purification by column chromatography with silica gel and n-hexane/ethyl acetate (from pure n-hexane to 5:1) gave the title compound (1.8 g, 54%) as oil.

reactant | 2,2,3,3-tetrafluoro-1,4-butanediol | 12.3 mmol, 2.0 g | FC(CO)(C(CO)(F)F)F | C4H6F4O2
reactant | sodium hydride | 18.4 mmol, 0.140 g | [H-].[Na+]
reactant | cinnamyl bromide | 12.3 mmol, 3.2 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 2,2,3,3-Tetrafluoro-4-{[(2E)-3-phenylprop-2-en-1-yl]oxy}butan-1-ol | 1.8 g, 54% | FC(CO)(C(COC\C=C\C1=CC=CC=C1)(F)F)F | C13H14F4O2
